US09126956B2
Preparation 5: (R)-3-(4-Bromophenyl)-2-t-butoxycarbonylaminopropionic Acid
To a solution of (R)-2-amino-3-(4-bromophenyl)propionic acid (50 g, 0.2 mol) in MeCN (700 mL) was added a solution of NaOH (16.4 g, 0.4 mol) in water (700 mL) at −5° C. After stirring for 10 minutes, a solution of (BOC)2O (44.7 g, 0.2 mol) in MeCN (100 mL) was added. The mixture was warmed to room temperature and stirred overnight. After evaporation of the MeCN, the residue was diluted with DCM (800 mL) and acidified with 1 M HCl to pH 2 at −5° C. The aqueous layer was extracted with DCM (3×200 mL). The combined organic layers were washed with saturated aqueous NaCl (500 mL), dried over anhydrous Na2SO4 and concentrated to yield the title compound as a white solid (64.2 g). LC-MS: [M+Na]:366, [2M+Na]:709.

reactant | (R)-2-amino-3-(4-bromophenyl)propionic acid | 0.2 mol, 50 g | N[C@@H](C(=O)O)CC1=CC=C(C=C1)Br | C9H10BrNO2
reactant | NaOH | 0.4 mol, 16.4 g | [OH-].[Na+]
reactant | (BOC)2O | 0.2 mol, 44.7 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 700 mL | CC#N | C2H3N
solvent | water | 700 mL | O | H2O
solvent | MeCN | 100 mL | CC#N | C2H3N
product | (R)-3-(4-Bromophenyl)-2-t-butoxycarbonylaminopropionic Acid | 64.2 g | BrC1=CC=C(C=C1)C[C@H](C(=O)O)NC(=O)OC(C)(C)C | C14H18BrNO4
